US05420276
5-Methyl-3'-deoxyuridine, from Step 1, was dissolved in 150 mL of dry pyridine and 3.6 g (24 mmol) of t-butyldimethylsilyl chloride was added in 4 portions at 4 times (t): t=0 h, t=2 h, t=3 h and at t=3.75 h. After 4.5 h, 8 mL of methanol was added to the reaction mixture and the reaction mixture was stirred for 0.5 h, then concentrated under reduced pressure to approximately 25% of volume. The concentrated reaction mixture was diluted with ethyl acetate, washed with dilute aqueous sodium bicarbonate solution and then concentrated under reduced pressure. The residue was purified by column chromatography on a 5 cm×37 cm silica gel column eluted with 90% ethyl acetate in hexane. The fractions containing the desired product were combined and concentrated in vacuo to give 7.27 g (84.4% yield based on 24.19 mmol of 2',5'-bis(O-(4"-chloro)benzoyl)-5-methyl-3 '-deoxyuridine) of 5'-O-(t-butyldimethylsilyl)-5-methyl-3'-deoxyuridine, [α]D23 =-19.6° (c, 1.42, MeOH). Analysis calculated for C16H28N2O5Si: C, 53.98; H, 7.91; N, 7.87. Found: C, 54.01; H, 7.85; N, 7.79.

reactant | 5-Methyl-3'-deoxyuridine | CC=1C(NC(N([C@H]2[C@H](O)C[C@@H](CO)O2)C1)=O)=O | C10H14N2O5
reactant | t-butyldimethylsilyl chloride | 24 mmol, 3.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | methanol | 8 mL | CO | CH4O
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5'-O-(t-butyldimethylsilyl)-5-methyl-3'-deoxyuridine | 24.19 mmol, 7.27 g, 84.4% yield | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)O | C16H28N2O5Si
